US05998417
1-[4-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxyphenyl]-ethanone
A stirred mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole hydrochloride (5.1 g, 20 mmol), K2CO3 (5.2 g), 1-[4-(2-chloroethoxy)-3-methoxyphenyl]ethanone (5.0 g, 1022 mmol), and dimethylformamide (90 ml) was heated at 90° C. for 16 hours. The reaction was poured into water, and the aqueous mixture was extracted with ethyl acetate. The ethyl acetate was washed (water), dried (MgSO4), and concentrated to afford 7.4 g of a yellow solid. The solid was chromatographed on a Waters Prep LC 500 utilizing dichloromethane/methanol (4%) as eluent, and subsequent concentration of the appropriate fraction afforded 4.0 g of a yellow solid. The solid was recrystallized from ethyl alcohol to yield 3.1 g (38%) of 1-[4-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethoxy]-3-methoxyphenyl]ethanone, as slightly yellow flakes, m.p.=132-134° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole hydrochloride | 20 mmol, 5.1 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | K2CO3 | 5.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(2-chloroethoxy)-3-methoxyphenyl]ethanone | 1022 mmol, 5.0 g | ClCCOC1=C(C=C(C=C1)C(C)=O)OC | C11H13ClO3
reactant | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[4-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxyphenyl]-ethanone | 7.4 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)C(COC2=C(C=C(C=C2)C(C)=O)OC)C)C=C1 | C24H27FN2O4
